US08106064B2
To a stirred DMF (90 ml) in an ice bath, 4-(bromomethyl)-3,5-dichloro-2,6-difluoropyridine (20 g, 72 mmol) and sodium benzoate (15 g, 104 mmol) were added. After 1 hr., the mixture was stirred in a water bath for ca. 20 hr. The product was then extracted with ether, washed with water twice, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give a light brown oil. The light brown oil was purified by silica gel column chromatography (eluent, ether:hexane (1:15) to afford 18.6 g (81%) of (3,5-dichloro-2,6-difluoropyridin-4-yl)methyl benzoate as a colorless oil. 1H NMR (200 MHz, CDCl3) δ 5.61 (2H, s), 7.40-7.64 (3H, m), 8.00-8.05 (2H, m).

reactant | 4-(bromomethyl)-3,5-dichloro-2,6-difluoropyridine | 72 mmol, 20 g | BrCC1=C(C(=NC(=C1Cl)F)F)Cl | C6H2BrCl2F2N
reactant | sodium benzoate | 104 mmol, 15 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | (3,5-dichloro-2,6-difluoropyridin-4-yl)methyl benzoate | 18.6 g, 81% | C(C1=CC=CC=C1)(=O)OCC1=C(C(=NC(=C1Cl)F)F)Cl | C13H7Cl2F2NO2
